US06277859B1
17-cyclopropylmethyl-4,5α-epoxy-3,14β-dihydroxy-6α-methylaminomorphinan 4
Naltrexone (1.0 g) and methylamine hydrochloride (0.99 g, 5 equivalents) were dissolved in methanol (15 ml) followed by stirring for 20 minutes at room temperature. This reaction solution was added to platinum oxide (0.05 g, 5 w %) in methanol (10 ml) activated in advance in a hydrogen atmosphere followed by hydrogenation for 4 hours at room temperature and atmospheric pressure. The catalyst was removed by Celite filtration and the solvent was distilled off. After adding saturated aqueous sodium bicarbonate (20 ml) and extracting with chloroform (20 ml×2), the extract was washed with saturated brine and dried with anhydrous sodium sulfate, and the solvent was distilled off. The resulting dark reddish-violet oily substance was dissolved in chloroform (2 ml) followed by addition of ethyl acetate (4 ml) to obtain the target compound (0.83 g, yield: 79%) by crystallization. A portion of this compound was removed and various spectra were measured in the form of a hydrochloride.

reactant | Naltrexone | 1.0 g | C1=CC(=C2C3=C1C[C@@H]4[C@]5([C@]3(CCN4CC6CC6)[C@@H](O2)C(=O)CC5)O)O | C20H23NO4
reactant | methylamine hydrochloride | 0.99 g, 5 equivalents | Cl.CN
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
catalyst | platinum oxide | 0.05 g | [Pt]=O
product | 17-cyclopropylmethyl-4,5α-epoxy-3,14β-dihydroxy-6α-methylaminomorphinan | 0.83 g, yield: 79% | C1(CC1)CN1[C@H]2[C@@]3(CC[C@@H]([C@H]4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)NC)O | C21H28N2O3
